US04841045
4,4-Dimethyl-5-t-butyldimethylsilyloxyvaleronitrile
To a solution of 16.13 g (0.127 mmol) of 4,4-dimethyl-5-hydroxyvaleronitrile in 250 mL of dry CH2Cl2 was added, at 20° C., in 2 min., 24.2 mL (0.139 mmol; 1.09 eq) of diisopropylethylamine, followed after 5 min. by 25.0 g (0.165 mmol; 1.3 eq) of solid t-butyldimethylsilyl chloride, all at once. Then, 1.55 g (0.0127 mmol; 0.1 eq) of 4-dimethylaminopyridine was added and the whole was stirred at 20° C. during 18h. After removing the solvent under vacuum (aspirator) the brown residue was taken up in H2O, followed by ethyl ether. The layers were separated and the aqueous one extracted three times with 200 mL of ether. The combined organic layers were back extracted with water (100 mL), HCl 1.2N (100 mL), 5% KHCO3 (2×100 mL), dried over Na2SO4 and concentrated under vacuum to give a faint yellow oil. Distillation at 94°-97° C. (0.7 mm) gave 21 g (69%) of the title compound. TLC: (Silica), Rf 0.59 (CH2Cl2), detection with molybdophosphoric acid blue on yellow.

reactant | 4,4-dimethyl-5-hydroxyvaleronitrile | 0.127 mmol, 16.13 g | CC(CCC#N)(CO)C | C7H13NO
reactant | diisopropylethylamine | 0.139 mmol, 24.2 mL, 1.09 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | t-butyldimethylsilyl chloride | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.0127 mmol, 1.55 g, 0.1 eq | CN(C1=CC=NC=C1)C | C7H10N2
product | 4,4-Dimethyl-5-t-butyldimethylsilyloxyvaleronitrile | 21 g, 69% | CC(CCC#N)(CO[Si](C)(C)C(C)(C)C)C | C13H27NOSi
